US07153855B2
To a solution of N-butyl-3-[2-(butylamino)-4-pyrimidinyl]-2-{4-[(diphenylmethylene)-amino]phenyl}pyrazolo[1,5-a]pyridin-7-amine (1.0 g, 1.7 mmol) in tetrahydrofuran (50 mL) was added hydrochloric acid (10 mL, 4 N aqueous). The resultant solution was stirred at room temperature for 30 minutes. Ether was added and the solution was made basic by the slow addition of saturated aqueous sodium bicarbonate. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (1:1 hexanes:ethyl acetate) provided N-{4-[2-(4-aminophenyl)-7-(butylamino)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-butylamine as an orange oil. 1H NMR (CDCl3): δ 8.02 (d, 1 H), 7.81 (d, 1 H), 7.47 (d, 2 H), 7.31 (m, 1 H), 6.77 (d, 2 H), 6.42 (d, 1 H), 6.08 (m, 1 H), 6.00 (d, 1 H), 5.18 (broad, 1 H), 3.86 (broad, 2 H), 3.53 (m, 2 H), 3.39 (m, 2 H), 1.82–1.64 (m, 4 H), 1.58–1.46 (m, 4 H), 1.04–0.99 (m, 6 H); MS m/z430 (M+1). This material was treated with anhydrous hydrochloric acid in ether to provide the corresponding hydrochloride salt.

reactant | N-butyl-3-[2-(butylamino)-4-pyrimidinyl]-2-{4-[(diphenylmethylene)-amino]phenyl}pyrazolo[1,5-a]pyridin-7-amine | 1.7 mmol, 1.0 g | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCCCC)C2=CC=C(C=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C38H39N7
reactant | hydrochloric acid | 4 N, 10 mL | Cl | ClH
reactant | Ether | CCOCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-{4-[2-(4-aminophenyl)-7-(butylamino)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-butylamine | NC1=CC=C(C=C1)C1=NN2C(C=CC=C2NCCCC)=C1C1=NC(=NC=C1)NCCCC | C25H31N7
